US08431695B2
Step 1: Preparation of 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-1-(N,N-dimethylglycyl)piperidin-3-ol
A mixture of 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]piperidin-3-ol (154 mg, 0.35 mmol), N,N-dimethylglycine (43 mg, 0.42 mmol), EDCl (74 mg, 0.39 mmol), HOBt (52 mg, 0.39 mmol), and N,N-diisopropylethylamine (183 μL, 1.05 mmol) in DMF (3.0 mL) was stirred at rt for 80 h. The crude mixture was purified by preparative HPLC using a gradient elution from 15% to 45% acetonitrile in water followed by filtration through an acidic resin, washing with MeOH. The product was eluted with 2M NH3 in MeOH and the filtrate was concentrated to provide 61 mg (33%) of the desired product. ES-MS m/z 525.52 [M+H]+, HPLC RT (min) 2.04.

reactant | 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]piperidin-3-ol | 0.35 mmol, 154 mg | NC1=NC=NN2C1=C(C=C2C2(CNCCC2)O)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C25H25N7O
reactant | N,N-dimethylglycine | 0.42 mmol, 43 mg | CN(CC(=O)O)C | C4H9NO2
reactant | EDCl | 0.39 mmol, 74 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.39 mmol, 52 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 1.05 mmol, 183 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-1-(N,N-dimethylglycyl)piperidin-3-ol | 61 mg, 33% | NC1=NC=NN2C1=C(C=C2C2(CN(CCC2)C(CN(C)C)=O)O)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C29H32N8O2
